feedbackConcept
.source V1
.detector V_out
C1 3 0 C value={C_s} vinit=0
C2 out 0 C value={C_L} vinit=0
C3 out 2 C value={C_i} vinit=0
E2 noise 0 out 0 E value={DIN_A}
L1 3 1 L value={L_s} iinit=0
N1 out 0 3 2 N
R1 1 4 R value={R_s} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R2 3 0 R value={R_t} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R3 2 0 R value={R_f} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R4 out 2 R value={R_b} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
V1 4 0 V value=0 noise=0 dc=0 dcvar=0
.end